US04589905
5-Methyl-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester (30 grams, 0.14 mole) and N-bromosuccinimide (25.4 grams, 0.14 mole) were combined in 100 ml of carbon tetrachloride. A heating lamp was turned onto the reaction mixture, and the reaction mixture was refluxed for three hours. The reaction mixture was then cooled and filtered to remove the succinimide. The filtrate was washed with water, washed with saturated brine, and dried over sodium sulfate and filter paper. The solvent was then removed in vacuo, providing 34.5 grams of the 5-(bromomethyl)-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester.

reactant | 5-Methyl-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 0.14 mole, 30 grams | CC1=C(C=NN1C(C)(C)C)C(=O)OCC | C11H18N2O2
reactant | N-bromosuccinimide | 0.14 mole, 25.4 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(bromomethyl)-1-tert-butyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 34.5 grams | BrCC1=C(C=NN1C(C)(C)C)C(=O)OCC | C11H17BrN2O2
